US07125896B2
b) 4-[(3-Bromophenoxy)methyl]-1,3-thiazole
4-(Chloromethyl)thiazole hydrochloride (3.0 g), 3-bromophenol (2.77 g) and potassium carbonate (7.30 g) were heated in dimethylformamide at 60° C., with stirring, for 18 h. The mixture was partitioned between diethyl ether (50 ml) and water (50 ml) and the aqueous phase was extracted further with ether (50 ml). The combined organics were washed with 2M aqueous sodium hydroxide (100 ml) and water (100 ml), dried (magnesium sulphate) and concentrated in vacuo to give the product as a yellow crystalline solid (3.82 g).

reactant | 4-(Chloromethyl)thiazole hydrochloride | 3.0 g | Cl.ClCC=1N=CSC1
reactant | 3-bromophenol | 2.77 g | BrC=1C=C(C=CC1)O | C6H5BrO
reactant | potassium carbonate | 7.30 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 4-[(3-Bromophenoxy)methyl]-1,3-thiazole | 3.82 g | BrC=1C=C(OCC=2N=CSC2)C=CC1 | C10H8BrNOS
